US07452893B2
Step 5: trans [4-(2,2-Difluoro-2-phenyl-ethoxy)-cyclohexyl)-carbamic acid tert-butyl ester
To a stirred mixture of 0.23 g of g of cis-(4-hydroxy-cyclohexyl)-carbamic acid tert-butyl ester, 0.54 g of 1.1′-(azodicarbonyl)-dipiperidine and 20 mL of benzene was added 0.4 g of tri-n-butyl-phosphine and 1.3 g (8 equivalents) of 2,2-difluoro-2-phenyl-ethanol. The mixture was heated to 60° C. overnight, then an additional 0.5 g of 1.1′-(azodicarbonyl)-dipiperidine and 0.4 g of tri-n-butyl-phosphine was added and heating continued for another 24 h. The mixture was cooled, diluted with 25 mL of toluene, filtered and the filter pad washed with 5 mL of toluene. The filtrate was purified by chromatography on silica gel eluting with a gradient of 0%-20% ethyl acetate in hexane gave 0.15 g of product as a resin: 1H NMR (400 MHz, CDCl3) 7.5 (m, 5H), 3.95 (m, 2H), 3.4 (m, 1H), 1.95 (m, 2H), 1.6 (m, 6H), 1.45 (s, 9H).

reactant | cis-(4-hydroxy-cyclohexyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1CC[C@@H](CC1)O)=O | C11H21NO3
reactant | 1.1′-(azodicarbonyl)-dipiperidine | 0.54 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tri-n-butyl-phosphine | 0.4 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 2,2-difluoro-2-phenyl-ethanol | 1.3 g, 8 equivalents | FC(CO)(C1=CC=CC=C1)F | C8H8F2O
reactant | 1.1′-(azodicarbonyl)-dipiperidine | 0.5 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tri-n-butyl-phosphine | 0.4 g | C(CCC)P(CCCC)CCCC | C12H27P
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | trans [4-(2,2-Difluoro-2-phenyl-ethoxy)-cyclohexyl)-carbamic acid tert-butyl ester | 0.15 g | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)OCC(C1=CC=CC=C1)(F)F)=O | C19H27F2NO3
